US08486963B2
Step 2: 7-(2-Fluoro-4-methylsulfanyl-phenylamino)-pyrrolo[1,2-c]pyrimidine-6-carboxylic acid ((R)-2,3-dihydroxy-propoxy)-amide
To a solution of 7-(2-fluoro-4-methylsulfanyl-phenylamino)-pyrrolo[1,2-c]pyrimidine-6-carboxylic acid ((R)-2,2-dimethyl-[1,3]dioxolan-4-ylmethoxy)-amide (246 mg, 0.56 mmol) in methanol (1 mL) was added a solution of hydrochloric acid in dioxane (1 mL, 4M, 4 mmol). The reaction was stirred at room temperature for 1 hour then diluted with ethyl acetate (5 mL), washed with saturated aqueous sodium bicarbonate solution (10 mL) and the aqueous fraction extracted twice with ethyl acetate (2×10 mL). The combined organic fractions were washed with brine, dried (MgSO4) and concentrated in vacuo. The resultant residue was subjected to flash chromatography (SiO2, gradient 0-10% DCM in methanol) to yield a light brown solid. The solid was triturated with acetonitrile (3 mL) to yield the title compound as a beige solid (100 mg, 45%). 1H NMR (DMSO-d6): 11.38 (1H, s), 8.64 (1H, t, J=1.05 Hz), 7.86 (1H, s), 7.41-7.39 (2H, m), 7.15 (1H, dd, J=12.09, 2.09 Hz), 6.82-6.79 (1H, m), 6.73 (1H, s), 6.06 (1H, t, J=8.82 Hz), 4.82 (1H, s), 4.53 (1H, s), 3.80 (1H, dd, J=9.68, 3.51 Hz), 3.67-3.57 (2H, m), 3.31-3.24 (2H, m). (SMe coincident with solvent). LCMS (Method A): RT=7.14 min, M+H+=407.

reactant | 7-(2-fluoro-4-methylsulfanyl-phenylamino)-pyrrolo[1,2-c]pyrimidine-6-carboxylic acid ((R)-2,2-dimethyl-[1,3]dioxolan-4-ylmethoxy)-amide | 0.56 mmol, 246 mg | CC1(OC[C@@H](O1)CONC(=O)C=1C=C2N(C=NC=C2)C1NC1=C(C=C(C=C1)SC)F)C | C21H23FN4O4S
reactant | hydrochloric acid | Cl | ClH
reactant | dioxane | 4 mmol, 4M, 1 mL | O1CCOCC1 | C4H8O2
solvent | methanol | 1 mL | CO | CH4O
solvent | ethyl acetate | 5 mL | C(C)(=O)OCC | C4H8O2
product | 7-(2-Fluoro-4-methylsulfanyl-phenylamino)-pyrrolo[1,2-c]pyrimidine-6-carboxylic acid ((R)-2,3-dihydroxy-propoxy)-amide | 100 mg, 45% | O[C@@H](CONC(=O)C=1C=C2N(C=NC=C2)C1NC1=C(C=C(C=C1)SC)F)CO | C18H19FN4O4S
